US07279580B2
A cooled (0° C.) suspension of 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile (24.2 g, 100 mmol) in EtOH (150 ml) and THF (150 ml) was treated with SnCl22H2O (67.7 g, 300 mmol) and the mixture was stirred to ambient temperature over 12 h. The solvent was removed in vacuo and the residue treated with ice-cold aqueous 2 N NaOH solution (750 ml). The resulting slurry was stirred for 60 min then extracted with CH2Cl2 (2×400 ml). The organics were combined, washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated to give a red solid. Crystallisation from toluene gave 5′-amino-2′-fluorobiphenyl-2-carbonitrile as a cream-coloured solid (16 g, 75%): δH (400 MHz, CDCl3 ) 3.65 (2H, br), 6.67-6.73 (2H, m), 7.00 (1H, t, J 9), 7.44-7.49 (2H, m), 7.64 (1H, td, J 9 and 2), 7.75 (1H, dd, J 8 and 2); m/z (ES+) 213 (100%, [MH]+).

reactant | 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile | 100 mmol, 24.2 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1C(=CC=CC1)C#N | C13H7FN2O2
solvent | EtOH | 150 ml | CCO | C2H6O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5′-amino-2′-fluorobiphenyl-2-carbonitrile | 16 g, 75% | NC=1C=CC(=C(C1)C=1C(=CC=CC1)C#N)F | C13H9FN2
